US05496930
1.03 g (3 mmol) of 3,4-di-O-acetyl-6-O-tert.butyldimethylsilyl-glucal in 10 ml of 0.1M potassium phosphate buffer (pH=7) are stirred with 0.5-1.0 g of lipase P or lipase Fp (Amano), immobilized on SiO2, at room temperature. After the reaction is complete (5-8 h), the immobilized reusable enzyme is separated off. The desired 4-O-acetyl-6-O-tert.butyldimethylsilyl-glucal is obtained either by extraction of the aqueous solution with chloroform or ethyl acetate or after freeze-drying and subsequent chromatography on silica gel (ether/hexane 1:2) in 82% yield.

reactant | 3,4-di-O-acetyl-6-O-tert.butyldimethylsilyl-glucal | 3 mmol, 1.03 g | C(C)(=O)O[C@@H]1C=C(O[C@@H]([C@H]1OC(C)=O)COC(C)(C)C)[SiH](C)C | C16H28O6Si
solvent | potassium phosphate | 0.1M, 10 ml, pH=7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 4-O-acetyl-6-O-tert.butyldimethylsilyl-glucal | 82% yield | C(C)(=O)O[C@H]1[C@@H](C=C(O[C@@H]1COC(C)(C)C)[SiH](C)C)O | C14H26O5Si
